US09238647B2
Step A: tert-butyl 5-chloro-6-hydrazinonicotinate
To a solution of tert-butyl 5,6-dichloronicotinate (2.0 g, 8.1 mmol)) in ethanol (40.3 mL) was added hydrazine hydrate (1.18 mL, 24.2 mmol). The mixture was heated 75° C. After 18 h, the mixture was cooled to ambient temperature. The mixture was concentrated to dryness: LC-MS [M+1]=244.1.

reactant | tert-butyl 5,6-dichloronicotinate | 8.1 mmol, 2.0 g | ClC=1C(=NC=C(C(=O)OC(C)(C)C)C1)Cl | C10H11Cl2NO2
reactant | hydrazine hydrate | 24.2 mmol, 1.18 mL | O.NN
solvent | ethanol | 40.3 mL | C(C)O | C2H6O
product | tert-butyl 5-chloro-6-hydrazinonicotinate | ClC=1C(=NC=C(C(=O)OC(C)(C)C)C1)NN | C10H14ClN3O2
